US07592365B2
0.075 g (0.216 mmol) of tert-butyl 2-amino-3-carbamoyl-4-(4-nitrophenyl)-pyrrole-1-carboxylate is added at a temperature in the region of 25° C. to a suspension of 0.008 g (0.0076 mmol) of 10% palladium on carbon in 12 cm3 of methanol. After hydrogenating for 17 hours in an autoclave under 3 bar of hydrogen, at a temperature in the region of 25° C., the reaction mixture is filtered, the catalyst is rinsed with three times 5 cm3 of methanol and then the filtrate is concentrated to dryness under reduced pressure (2.7 kPa) to give 0.072 g of tert-butyl 2-amino-4-(4-aminophenyl)-3-carbamoylpyrrole-1-carboxylate, in the form of a yellow solid; 1H NMR (400 MHz, (CD3)2SO, —δ in ppm); 1.55 (s: 9H); from 4.80 to 5.35 (very broad m: 1H); 5.22 (broad s 2H); 6.32 (s: 1H); from 6.40 to 6.85 (very broad m: 1H); 6.60 (broad d, J=8.5 Hz: 2H); 6.99 (broad d, J=8.5 Hz: 2H); 7.01 (broad s: 2H).

reactant | tert-butyl 2-amino-3-carbamoyl-4-(4-nitrophenyl)-pyrrole-1-carboxylate | 0.216 mmol, 0.075 g | NC=1N(C=C(C1C(N)=O)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C16H18N4O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.0076 mmol, 0.008 g | [Pd] | Pd
solvent | methanol | 12 cm3 | CO | CH4O
product | tert-butyl 2-amino-4-(4-aminophenyl)-3-carbamoylpyrrole-1-carboxylate | 0.072 g | NC=1N(C=C(C1C(N)=O)C1=CC=C(C=C1)N)C(=O)OC(C)(C)C | C16H20N4O3
